US07122545B2
1-[2-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridin-5-yl]-piperidin-4-ol
0.035 g 1-[3-Methoxymethyl-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridin-5-yl]-piperidin-4-ol (0.07 mmol) was treated with 5N HCl (1 ml) at 90° C. for 0.5 h. The reaction mixture was concentrated, taken up in water (1 ml) and adjusted to pH 10 with ammonium hydroxide (25%), whereupon a precipitation formed. The precipitation was filtered and the crystals were triturated in hot ethanol. After drying in vacuo 0.018 g 1-[2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridin-5-yl]-piperidin-4-ol (56%) was obtained as a yellow solid; M.p.: 228–230° C.

reactant | 1-[3-Methoxymethyl-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridin-5-yl]-piperidin-4-ol | 0.07 mmol, 0.035 g | COCN1C(=NC=2C1=NC(=CC2)N2CCC(CC2)O)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C25H30N6O4S
reactant | HCl | 5N, 1 ml | Cl | ClH
product | 1-[2-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridin-5-yl]-piperidin-4-ol | COC1=CC=C(C2=C1N=C(S2)C2=NC=1C(=NC(=CC1)N1CCC(CC1)O)N2)N2CCOCC2 | C23H26N6O3S
